US08466197B2
CDI (2.34 g, 14.48 mmol) was added to a solution of salicylic acid (2.00 g, 14.48 mmol) in DMF (40 mL). The reaction mixture was stirred at 50° C. for 4 h and isopropyl alcohol (2.80 mL, 36.20 mmol) was dropwise added. The reaction mixture was stirred at 50° C. for 16 h and allowed to reach r.t. It was poured into H2O (50 mL) and extracted with Et2O (2×40 mL). The organic layer was washed with NaHCO3 (20 mL, saturated aqueous solution), dried over Na2SO4 (anhydrous), filtered and concentrated. The crude residue was flash chromatographed on SiO2 (5% EtOAc/hexanes) to furnish 1.395 g of isopropyl 2-hydroxybenzoate (colourless oil, yield: 54%).

reactant | CDI | 14.48 mmol, 2.34 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | salicylic acid | 14.48 mmol, 2.00 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | isopropyl alcohol | 36.20 mmol, 2.80 mL | C(C)(C)O | C3H8O
reactant | H2O | 50 mL | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | isopropyl 2-hydroxybenzoate | 1.395 g, yield: 54% | OC1=C(C(=O)OC(C)C)C=CC=C1 | C10H12O3
